US06200933B1
Production of 4-methoxy-6-[3-(trifluoromethoxy)phenoxy] picolinic acid (Compound No. I-2)
2-cyano-4-methoxy-6-[3-(trifluoromethoxy)phenoxy] pyridine (1.72 g, 0.0055 mol) was suspended in about 15 ml of concentrated hydrochloric acid. The obtained suspension was stirred at about 100° C. for about 4 hours. After being allowed to stand for cooling, the obtained reaction solution was mixed with water, and then distributed in ethyl acetate-water. The organic phase separated from the solution was washed with saturated brine, dried with anhydrous sodium sulfate and then concentrated, thereby obtaining an aimed product.

reactant | 2-cyano-4-methoxy-6-[3-(trifluoromethoxy)phenoxy] pyridine | 0.0055 mol, 1.72 g | C(#N)C1=NC(=CC(=C1)OC)OC1=CC(=CC=C1)OC(F)(F)F | C14H9F3N2O3
reactant | water | O | H2O
reactant | ethyl acetate water | C(C)(=O)OCC.O
solvent | hydrochloric acid | about 15 ml | Cl | ClH
product | 4-methoxy-6-[3-(trifluoromethoxy)phenoxy] picolinic acid | COC1=CC(=NC(=C1)OC1=CC(=CC=C1)OC(F)(F)F)C(=O)O | C14H10F3NO5
